US06251926B1
Hydrazine monohydrate (1.15 ml) was added to a solution of N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]phthalimide (5.22 g) in ethanol (40 ml)-tetrahydrofuran (40 ml) and heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, diluted with an aqueous solution of potassium carbonate and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate-hexane to obtain 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (3.32 g, yield 90%) as colorless crystals. m.p. 68-69° C.

reactant | Hydrazine monohydrate | 1.15 ml | O.NN
reactant | N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]phthalimide | 5.22 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C26H20N2O5
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 3.32 g, yield 90% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON)C=C1 | C18H18N2O3
